US07589117B2
N-[(2-Cyclopropylmethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is prepared as described in Example 1, starting with 2.9 g of potassium tert-butoxide, 2.5 g of guanidinium chloride and 1.5 g of ethyl (2-cyclopropylmethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate. The reaction mixture is stirred at a temperature in the region of 20° C. for 20 hours, followed by addition of 20 cm3 of water. The aqueous phase is extracted with 3 times 100 cm3 of ethyl acetate. The organic extracts are combined and then concentrated to dryness under reduced pressure (0.6 kPa) at a temperature in the region of 35° C. The residue is taken up in water, triturated, filtered off and then dried in a desiccator. 1.2 g of N-[(2-cyclopropylmethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine are thus obtained in the form of an off-white powder melting at 229° C. Mass spectrum: DCI: m/e 287 (M+H)+.

reactant | potassium tert-butoxide | 2.9 g | CC(C)([O-])C.[K+]
reactant | guanidinium chloride | 2.5 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (2-cyclopropylmethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate | 1.5 g | C1(CC1)CN1C(C2=CC=CC=C2C1=O)CC(=O)OCC | C16H19NO3
solvent | water | 20 cm3 | O | H2O
product | N-[(2-cyclopropylmethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine | 1.2 g | C1(CC1)CN1C(C2=CC=CC=C2C1=O)CC(=O)NC(=N)N | C15H18N4O2
